US07396836B2
5-[2-Amino-4-(2-furyl)-5-pyrimidinyl]-1-methyl-1,2-dihydro-2-pyridinone
To a suspension of 5-[2-amino-4-(2-furyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone (2.2 g, 8.65 mmol) in methanol (44 ml) was added sodium methoxide (940 mg, 17.4 mmol) at room temperature under an atmosphere of nitrogen gas, followed by stirring. After 15 minutes, iodomethane (1.6 ml, 25.7 mmol) was added thereto, followed by stirring as it was for 22 hours. After concentrating the reaction mixture, water was added to the residue. Then, the precipitates were collected by filtration and washed with water, to give the crude crystals of the title compound (1.98 g). The crude crystals were suspended in ethanol, and then the precipitates were collected by filtration and washed with ethanol, to give the title compound (1.54 g, 66%) as a pale yellow solid.

reactant | 5-[2-amino-4-(2-furyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone | 8.65 mmol, 2.2 g | NC1=NC=C(C(=N1)C=1OC=CC1)C=1C=CC(NC1)=O | C13H10N4O2
reactant | sodium methoxide | 17.4 mmol, 940 mg | C[O-].[Na+]
reactant | iodomethane | 25.7 mmol, 1.6 ml | IC | CH3I
solvent | methanol | 44 ml | CO | CH4O
product | 5-[2-Amino-4-(2-furyl)-5-pyrimidinyl]-1-methyl-1,2-dihydro-2-pyridinone | 1.98 g | NC1=NC=C(C(=N1)C=1OC=CC1)C=1C=CC(N(C1)C)=O | C14H12N4O2
